US09388144B2
Step 1. 6-((4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid
A solution of 6-aminohexanoic acid (2.62 g, 20 mmol), 4-(prop-2-yn-1-yloxy)benzaldehyde (0.80 g, 5.0 mmol) and acetic acid (0.50 mL) in DCE (50 mL) was heated at 80° C. for 60 min. The reaction mixture was cooled to 0° C., and treated with NaBH(OAc)3 (2.11 g, 10 mmol). The reaction was stirred at room temperature for 12 hours and decomposed with water and then extracted with DCM. The organic layer was dried and concentrated under reduced pressure to give a residue, which was purified using a Biotage SP4 and gradient elution of 5-50% methanol in DCM. The yield of the target compound 6-((4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid was 62% (0.856 g). 1H NMR (400 MHz, DMSO-d6): δ 7.19 (d, J=8.4 Hz, 2H), 6.86 (d, J=8.4 Hz, 2H), 4.71 (s, 2H), 3.56 (s, 2H), 3.49 (s, 1H), 2.39 (t, J=7.0 Hz, 2H), 2.00 (t, J=7.2 Hz, 2H), 1.41-1.19 (m, 6H); MS (ESI), 276.1 (M+H)+.

reactant | 6-aminohexanoic acid | 20 mmol, 2.62 g | NCCCCCC(=O)O | C6H13NO2
reactant | 4-(prop-2-yn-1-yloxy)benzaldehyde | 5.0 mmol, 0.80 g | C(C#C)OC1=CC=C(C=O)C=C1 | C10H8O2
reactant | acetic acid | 0.50 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 10 mmol, 2.11 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 6-((4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid | C(C#C)OC1=CC=C(CNCCCCCC(=O)O)C=C1 | C16H21NO3
